US04663319
1-(p-(N-Benzylcarbonylamino)benzyl)-3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine (100 mg) is dissolved in acetic acid (2 ml), and a 25% HBr-acetic acid solution (0.5 ml) is added thereto. The mixture is stirred at room temperature for 40 minutes, and then at 40°-50° C. for one hour. After cooling the mixture, ether is added to the mixture. The precipitated crystals are collected by filtration, and recrystallized from a mixture of methanol and ether to give 1-(p-aminobenzyl)-3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine hydrobromide (70 mg, 79.3%) as pale yellow needles, m.p. 210°-214° C. (decomp.).

reactant | 1-(p-(N-Benzylcarbonylamino)benzyl)-3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine | 100 mg | C(C1=CC=CC=C1)C(=O)NC1=CC=C(CN2C(C(C(CC2)=O)=C2SC=CS2)=O)C=C1 | C23H20N2O3S2
reactant | HBr acetic acid | 0.5 ml | Br.C(C)(=O)O
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 1-(p-aminobenzyl)-3-(1,3-dithiol-2-ylidene)-2,4-dioxopiperidine hydrobromide | 70 mg, 79.3% | Br.NC1=CC=C(CN2C(C(C(CC2)=O)=C2SC=CS2)=O)C=C1 | InChI=1S/C15H14N2O2S2.BrH/c16-11-3-1-10(2-4-11)9-17-6-5-12(18)13(14(17)19)15-20-7-8-21-15;/h1-4,7-8H,5-6,9,16H2;1H
